US04239707
5 g of 1,5-dimethyl-8-bromobicyclo[3,2,1]octane was boiled under reflux for 18 hours in acetic acid in the presence of sodium acetate and copper(I) chloride. The reaction mixture was cooled and filtered, diluted with water and extracted with pentane. The pentane solution was washed with water and an aqueous sodium bicarbonate solution, dired, evaporated and fractionally distilled. 1,5-dimethyl-8-acetoxy-bicyclo[3,2,1]octane was obtained in good yield. 1,5-dimethyl-8-acetoxybicyclo[3,2,1]octane was also obtained in a similar manner starting from the 8-iodo compound described in Example 3.

reactant | 1,5-dimethyl-8-bromobicyclo[3,2,1]octane | 5 g | CC12CCCC(CC1)(C2Br)C | C10H17Br
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | copper(I) chloride | [Cu]Cl
product | 1,5-dimethyl-8-acetoxy-bicyclo[3,2,1]octane | CC12CCCC(CC1)(C2OC(C)=O)C | C12H20O2
